US07053107B2
1-(6-Chloro-1H-indazol-3-yl)-2-(5-ethyl-pyridin-2-yl)-ethanol
To a stirred solution of 4-ethyl-2-methylpyridine (0.458 9, 3.79 mmol) in THF (4mL) at −50 degrees Celsius, add butyl lithium (1.5 mL, 2.5 M, 3.79 mmol) slowly and stir for 10 minutes. To the reaction, slowly add a solution of 6-Chloro-1H-indazole-3-carbaldehyde (0.5 g, 1.89 mmol) in THF (4 mL). After stirring for 10 minutes, the reaction was quenched with 1 N citric acid (10 mL). The mixture was diluted with EtOAc (50 mL), water (20 mL), and saturated NaCl (10 mL). The layers were separated, and the aqueous was extracted with EtOAc (3×15 mL). The organics were combined and washed with saturated NaCl (20 mL). After drying the organic layer over Na2SO4, the solids were removed by filtration and the liquid was concentrated to an oil by rotary evaporation. Chromatography (40 g silica gel, 60–100% EtOAc/hex) yields the desired product (142 mg, 32%) and recovered 6-Chloro-1H-indazole-3-carbaldehyde (348 mg).

reactant | 4-ethyl-2-methylpyridine | 3.79 mmol | C(C)C1=CC(=NC=C1)C | C8H11N
reactant | butyl lithium | 3.79 mmol, 2.5 M, 1.5 mL | C(CCC)[Li]
reactant | 6-Chloro-1H-indazole-3-carbaldehyde | 1.89 mmol, 0.5 g | ClC1=CC=C2C(=NNC2=C1)C=O | C8H5ClN2O
solvent | THF | 4mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 1-(6-Chloro-1H-indazol-3-yl)-2-(5-ethyl-pyridin-2-yl)-ethanol | 142 mg, 32% | ClC1=CC=C2C(=NNC2=C1)C(CC1=NC=C(C=C1)CC)O | C16H16ClN3O
